US07312234B2
AMD9830: Preparation of N-(4-{[(1-benzenesulfonyl-1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzyl)-benzenesulfonamide
A solution of N′-(1H-benzimidazol-2-ylmethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine (302 mg, 0.760 mmol), benzenesulfonyl chloride (0.12 mL, 0.94 mmol), and Et3N (0.15 mL, 1.1 mmol) in CH2Cl2 (7.5 mL) was heated at reflux for 17 h, then concentrated in vacuo. The residue was partitioned between saturated NaHCO3(aq) (15 mL) and EtOAc (20 mL). The aqueous phase was extracted with EtOAc (20 mL), and the combined organic phases were dried (MgSO4), filtered and concentrated in vacuo. Purification of the crude material by column chromatography on silica gel (400:5:1 CH2Cl2/MeOH/NH4OH) afforded AMD9830 (229 mg, 71%) as a yellow foam. 1H NMR (CDCl3) δ 1.64-2.03 (m, 3H), 2.37 (m, 1H), 2.66-2.84 (m, 2H), 3.76-3.89 (m, 4H), 4.06 (m, 1H), 4.41 (dd, 1H, J=9.6, 6.0 Hz), 4.66 (d, 1H, J=15 Hz), 4.79 (d, 1H, J=15 Hz), 6.76 (d, 2H, J=8.1 Hz), 7.07 (m, 1H), 7.18 (d, 2H, J=8.1 Hz, 7.27 (m, 2H), 7.41 (m, 3H), 7.55 (m, 5H), 7.84 (m, 3H), 7.96 (m, 2H), 8.48 (m, 1H); 13C NMR (CDCl3) δ 20.15, 27.15, 27.55, 45.30, 51.78, 53.32, 61.49, 111.81, 118.60, 119.84, 122.59, 123.06, 125.43, 125.60, 127.06, 127.47, 127.76, 131.01, 131.24, 131.92, 132.55, 132.69, 134.81, 136.75, 138.13, 139.21, 140.14, 145.11, 151.74, 156.99. ES-MS m/z 678 (M+H). Anal. Calcd. for C37H35N5S2O4.0.5H2O: C, 64.70; H, 5.28; N, 10.20. Found: C, 64.65; H, 5.11; N, 10.08.

reactant | N′-(1H-benzimidazol-2-ylmethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine | 0.760 mmol, 302 mg | N1C(=NC2=C1C=CC=C2)CN(CC2=CC=C(C=C2)CN)C2CCCC=1C=CC=NC21 | C25H27N5
reactant | benzenesulfonyl chloride | 0.94 mmol, 0.12 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | Et3N | 1.1 mmol, 0.15 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 7.5 mL | C(Cl)Cl | CH2Cl2
product | N-(4-{[(1-benzenesulfonyl-1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzyl)-benzenesulfonamide | C1(=CC=CC=C1)S(=O)(=O)N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CC2=CC=C(CNS(=O)(=O)C1=CC=CC=C1)C=C2 | C37H35N5O4S2
